US07705053B2
Production of 3-N-(4-bromophenyl)-4-methoxyisophthalamide (Compound 1-3-14)
The captioned compound was synthesized from 6-methoxyisophthalamic acid and 4-bromoaniline by the same procedure as in the manufacturing method described in step C of Example 1-3-1.

reactant | 6-methoxyisophthalamic acid | COC1=CC=C(C=C1C(=O)O)C(=O)N | C9H9NO4
reactant | 4-bromoaniline | BrC1=CC=C(N)C=C1 | C6H6BrN
product | 3-N-(4-bromophenyl)-4-methoxyisophthalamide | BrC1=CC=C(C=C1)NC(C=1C=C(C(=O)N)C=CC1OC)=O | C15H13BrN2O3
